US04912117
A solution of (4-methylphenyl)[1-(2-phenylethyl)-4-piperidinyl]-methanone hydrochloride (9.5 g, 0.028 mol) in absolute ethanol (350 ml) was treated first by the addition of NaOCH3 (1.62 g, 0.03 mol) and then, portionwise, with sodium borohydride (2.27 g, 0.06 mol) and stirred at room temperature for 18 h. The reaction mixture was concentrated to a solid and stirred with 10% aqueous NaOH. The mixture was extracted with CH2Cl2 (3×50 ml). The CH2Cl2 solution was washed with water and then saturated NaCl solution, and dried over Na2SO4. After filtering off the Na2SO4, the filtrate was concentrated to a solid. This material was dissolved in EtOAc/Et2O (1:1, 200 ml) and treated with a solution of HCl (0.023 mol) in CH3OH/EtOAc (3:10, 13 ml). The resulting precipitate was twice recrystallized from butanone containing a small amount of CH3OH to give alpha-(4-methylphenyl)- 1-(2-phenylethyl)-4-piperidinemethanol hydrochloride, mp 181°-183° C.

reactant | (4-methylphenyl)[1-(2-phenylethyl)-4-piperidinyl]-methanone hydrochloride | 0.028 mol, 9.5 g | Cl.CC1=CC=C(C=C1)C(=O)C1CCN(CC1)CCC1=CC=CC=C1
reactant | NaOCH3 | 0.03 mol, 1.62 g | O([Na])C
reactant | sodium borohydride | 0.06 mol, 2.27 g | [BH4-].[Na+]
reactant | HCl | 0.023 mol | Cl | ClH
solvent | ethanol | 350 ml | C(C)O | C2H6O
solvent | CH3OH EtOAc | 13 ml | CO.CCOC(=O)C
product | alpha-(4-methylphenyl)- 1-(2-phenylethyl)-4-piperidinemethanol hydrochloride | Cl.CC1=CC=C(C=C1)C(O)C1CCN(CC1)CCC1=CC=CC=C1 | InChI=1S/C21H27NO.ClH/c1-17-7-9-19(10-8-17)21(23)20-12-15-22(16-13-20)14-11-18-5-3-2-4-6-18;/h2-10,20-21,23H,11-16H2,1H3;1H
